US07915268B2
tert-Butyl-4-fluoro-2-(5-nitro-4-(tetrahydro-2H-pyran-4-ylamino)pyrimidin-2-ylamino)phenylcarbamate.
To the solution of 96 mg (0.95 mmol) of 4-amino-tetrahydropyran in 35 mL anhydrous THF was added 0.35 g (0.86 mmol) tert-butyl 4-fluoro-2-(5-nitro-4-thiocyanatopyrimidin-2-ylamino)phenylcarbamate, then 0.3 mL N,N-diisopropylethyl amine (1.7 mmol). The slightly cloudy mixture was stirred at room temperature for 3 hrs till HPLC showed the completion of reaction. The mixture became clear then. The reaction mixture was diluted with EtOAc, washed with brine twice, and then dried over Na2SO4. Solvents were removed under vacuum to give 0.28 g (˜70% yield) orange-yellow solid as the crude product.

reactant | 4-amino-tetrahydropyran | 0.95 mmol, 96 mg | NC1CCOCC1 | C5H11NO
reactant | tert-butyl 4-fluoro-2-(5-nitro-4-thiocyanatopyrimidin-2-ylamino)phenylcarbamate | 0.86 mmol, 0.35 g | FC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)NC1=NC=C(C(=N1)SC#N)[N+](=O)[O-] | C16H15FN6O4S
reactant | N,N-diisopropylethyl amine | 1.7 mmol, 0.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl-4-fluoro-2-(5-nitro-4-(tetrahydro-2H-pyran-4-ylamino)pyrimidin-2-ylamino)phenylcarbamate | 0.28 g, ˜70% yield | C(C)(C)(C)OC(NC1=C(C=C(C=C1)F)NC1=NC=C(C(=N1)NC1CCOCC1)[N+](=O)[O-])=O | C20H25FN6O5
